US06992087B2
Preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine
To a solution of 6,7-dihydro-1-benzofuran-4(5H)-one (2.0 g) in methanol (50 ml) was added 3 Å sieves (15 g), ammonium acetate (11.3 g) and sodium cyanoborohydride (1.22 g). After 48 h of stirring, the reaction mixture was filtered through celite, concentrated, dissolved in 1 N HCl (100 ml) and washed with ethyl ether (3×100 ml). The Aqueous layer was basified to pH 10 (NaOH), extracted methylene chloride (3×100 ml), dried MgSO4, filtered and concentrated to yield (760 mg, 38%) of the title compound as an oil:

reactant | 6,7-dihydro-1-benzofuran-4(5H)-one | 2.0 g | O1C=CC2=C1CCCC2=O | C8H8O2
reactant | ammonium acetate | 11.3 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 1.22 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | 760 mg, 38% | O1C=CC2=C1CCCC2N | C8H11NO
